US08106043B2
4-(2-(Dimethylamino)ethyl)-7-nitro-2H-benzo[b][1,4]thiazin-3(4H)-one:
To a stirred suspension of 7-nitro-2H-benzo[b][1,4]thiazin-3(4H)-one (1.02 g, 4.85 mmol) and potassium carbonate (4.69 g, 34.0 mmol) in a pressure flask in DMF (30 mL) under argon was added 2-chloro-N,N-dimethylethanamine hydrochloride (3.49 g, 24.26 mmol). The flask was immediately sealed and heated with stirring to 90° C. overnight. The mixture was then cooled to room temperature, diluted with water and extracted (2× ethyl acetate). The combined organics were then washed with a 1:1 mixture of brine and water (3×) then brine (1×). The organic phase was dried, filtered, concentrated, and then chromatographed in 5% (2M NH3 in MeOH) in dichloromethane, giving the desired product (755 mg, 55.3%). 1H NMR (DMSO-d6) δ 8.30 (d, J=2.7 Hz, 1H), 8.13 (dd, J=9.3, 2.7 Hz, 1H), 7.59 (d, J=9.3 Hz, 1H), 4.11 (t, J=6.9 Hz, 2H), 3.62 (s, 2H), 2.41 (t, J=6.9 Hz, 2H), 2.17 (s, 6H); MS-EI: (m/z, %) 281 (M+, 55), 251 (65), 58 (100).

reactant | 7-nitro-2H-benzo[b][1,4]thiazin-3(4H)-one | 4.85 mmol, 1.02 g | [N+](=O)([O-])C=1C=CC2=C(SCC(N2)=O)C1 | C8H6N2O3S
reactant | potassium carbonate | 34.0 mmol, 4.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-N,N-dimethylethanamine hydrochloride | 24.26 mmol, 3.49 g | Cl.ClCCN(C)C
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(2-(Dimethylamino)ethyl)-7-nitro-2H-benzo[b][1,4]thiazin-3(4H)-one | 755 mg, 55.3% | CN(CCN1C2=C(SCC1=O)C=C(C=C2)[N+](=O)[O-])C | C12H15N3O3S
